US07304062B2
2-(4-{3-[1-(4-t-Butylphenylmethyl)-4-methyl-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester
1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-(4-t-butyl phenylmethyl)-4-methylsemicarbazide (0.93 g, 1.82 mmol) was dissolved in ethyl acetate (10 mL). Camphorsulfonic acid (0.46 g, 1.98 mmol) was added in one portion and the solution was heated to reflux and stirred for 1 h. The solution was cooled to rt and washed with sat'd aq. NaHCO3 (2×8 mL), 1N HCl (2×8 mL) and sat'd aq. NaCl (8 mL)). The organic phase was dried (MgSO4), filtered and concentrated to afford the title compound as clear, colorless oil (0.84 g, 93.6%): 1H NMR (DMSO-d6) δ 7.30 (d, 2H, J=8 Hz), 7.15 (d, 2H, J=8 Hz), 7.05 (d, 2H, J=8 Hz), 6.68 (d, 2H, J=8 Hz), 4.77 (s, 2H), 4.13 (q, 2H, J=7 Hz), 3.69 (s, 3H), 2.53 (t, 2H, J=8 Hz), 2.47 (t, 2H, J=8 Hz), 1.81 (quint, 2H, J=7 Hz), 1.47 (s, 6H), 1.22 (s, 9H), 1.14 (t, 3H, J=7 Hz); 13C NMR (DMSO-d6) δ 174.0, 154.1, 153.8, 150.4, 147.1, 135.6, 135.0, 129.8, 128.0, 125.9, 119.5, 79.2, 61.6, 48.3, 34.9, 34.1, 31.8, 27.7, 27.6, 25.7, 25.1, 14.6; IR *(CHCl3) 2967, 1695, 1509, 1475, 1232 cm−1; Anal. Calcd. for C29H39N3O4: C, 70.56; H, 7.96; N, 8.51. Found: C, 70.28; H, 7.85; N, 8.43.

reactant | 1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-(4-t-butyl phenylmethyl)-4-methylsemicarbazide | 1.82 mmol, 0.93 g | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)NN(C(=O)NC)CC1=CC=C(C=C1)C(C)(C)C)C | C29H41N3O5
reactant | Camphorsulfonic acid | 1.98 mmol, 0.46 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-{3-[1-(4-t-Butylphenylmethyl)-4-methyl-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC1=NN(C(N1C)=O)CC1=CC=C(C=C1)C(C)(C)C)=O | C29H39N3O4
